US05089487
3-(1-Hydroxy-3-methylbutyl)-11-(1-methyl-ethoxy)-4-methoxy-9-methyl-7H-dibenzo[b,g][1,5]dioxocin-5-one
200 mg (0.54 mmol) of penicillide (Ib) in 2 ml of dimethylformamide are stirred under argon at 25° C. for 12 h with 0.5 ml (50 mmol) of isopropyl iodide and 160 mg (1.14 mmol) of anhydrous potassium carbonate. After evaporating in vacuo, the residue is taken up with 1 N aqueous hydrochloric acid and the mixture is exhaustively extracted with diethyl ether. After drying the organic phase, the evaporation residue is chromatographed on silica using petroleum ether/ether =1/1. Fractions which are pure by thin layer chromatography are combined and evaporated.

reactant | penicillide | 0.54 mmol, 200 mg | CC1=CC2=C(C(=C1)O)OC3=CC=C(C(=C3C(=O)OC2)OC)[C@H](CC(C)C)O | C21H24O6
reactant | isopropyl iodide | 50 mmol, 0.5 ml | C(C)(C)I | C3H7I
reactant | potassium carbonate | 1.14 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(1-Hydroxy-3-methylbutyl)-11-(1-methyl-ethoxy)-4-methoxy-9-methyl-7H-dibenzo[b,g][1,5]dioxocin-5-one | OC(CC(C)C)C1=C(C2=C(OC3=C(COC2=O)C=C(C=C3OC(C)C)C)C=C1)OC | C24H30O6
